US07253196B2
5-tert-butyl-2-(cycloheptylamino)-1,3-thiazol-4(5H)-one
Synthesis was performed from 2-amino-3,3-dimethylbutanoic acid and N-cycloheptylthiourea according to Method E and C.

reactant | 2-amino-3,3-dimethylbutanoic acid | NC(C(=O)O)C(C)(C)C | C6H13NO2
reactant | N-cycloheptylthiourea | C1(CCCCCC1)NC(=S)N | C8H16N2S
product | 5-tert-butyl-2-(cycloheptylamino)-1,3-thiazol-4(5H)-one | C(C)(C)(C)C1C(N=C(S1)NC1CCCCCC1)=O | C14H24N2OS
